US07173048B2
A solution of 100 mg (0.2 mmol) of 1,1,1,3,3,3-hexafluoro-2-{1-[2-(4-hydroxymethyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-2-methyl-2,3-dihydro-1H-indol-5-yl}-propan-2-ol in 2 ml of toluene was treated with 87 mg (1.0 mmol) of MnO2 and stirred at 80° C. during 20 hours. Filtration, evaporation of the solvent and chromatography on silica gel with heptane/EtOAc 4:1 gave 50 mg (50%) of 4-{5-methyl-4-[2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-indol-1-ylmethyl]-oxazol-2-yl}-benzaldehyde, pink solid, MS: 497 (MH+).

reactant | 1,1,1,3,3,3-hexafluoro-2-{1-[2-(4-hydroxymethyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-2-methyl-2,3-dihydro-1H-indol-5-yl}-propan-2-ol | 0.2 mmol, 100 mg | FC(C(C(F)(F)F)(O)C=1C=C2CC(N(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)CO)C)(F)F | C24H22F6N2O3
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 1.0 mmol, 87 mg | O=[Mn]=O
product | 4-{5-methyl-4-[2-methyl-5-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-indol-1-ylmethyl]-oxazol-2-yl}-benzaldehyde | 50 mg, 50% | CC1=C(N=C(O1)C1=CC=C(C=O)C=C1)CN1C(=CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O)C | C24H18F6N2O3
